datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.[CH:10](=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)\[C:71]#[N:72]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.[CH:10]([C:11]1=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]1)([F:20])[C:71]#[N:72] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"C/[C:11](=[CH:10]/[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[C:11]([CH:10]([F:20])[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"COC1=CC=CC=C1[P:10](C1=CC=CC=C1OC)C1=C(OC)C=CC=C1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>COC1=CC=CC=C1[P+:10](C1=CC=CC=C1OC)(C1=C(OC)C=CC=C1)[CH:20]([N:21](C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[H][C:11]1=[CH:12][CH:13]=[N+:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:11](=[CH2:10])[C:62](C)=[CH2:63]>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C+:11](C)[C:62](C)=[CH2:63])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C2=CC=CC=C2)=[O:64])C=C1.FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([CH2:10][C:11](C2=CC=CC=C2)=[NH+:12][C:63](C2=CC=CC=C2)=[O:64])([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10,11=10,20;12=11,12"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)([CH2:10]C2=CC=CC=C2)[O:12]1.CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10]C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:62]1=[C:63]([CH3:84])[CH2:64][C:73]([CH3:94])=[C:72](C)[CH:11]1[H:10].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[C:62]1=[C:63]([CH3:84])[CH2:64][C:73]([CH3:94])=[C:72](C)[CH+:11]1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20"
"CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23].CC1(C)C[C:11]([O-:12])=[N:10][C:61](=[O:62])C1>>CC1(C)C[C:11](=[O:12])[N:10]([CH:20](C2=CC=CC=C2)[N:21]=[C:22]([O-:23])[O:33]C(C)(C)C)[C:61](=[O:62])C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:82][C:71]([C-:10]1CCCC[C:62]1=[O:61])=[O:72].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>CC[O:82][C:71]([C:10]1([CH:20]2N3N=N[N:35]=[C:34]3[C:33]([N+](=O)[O-])=[CH:32][C:21]2=[N+:22]([O-])[O-:23])CCCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21,22;22,23=23"
"CCCC[Sn:11](CCCC)(CCCC)[H:10].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>CCCC[Sn+:11](CCCC)CCCC.O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]2=[N:42]O[N:35]=[C:34]12 10,11=10,20;20,21=21,22;22,23=23"
"C/[C:10](=[C:11]1/[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)[C:71]#[N:72].CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10](C)([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[C:71]#[N:72])[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[OH:10]>>CC(C)[C:22](=[CH:21][CH:20]([OH+:10]C)[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
